US07368578B2
To a mixture of N,O-dimethylhydroxylamine hydrochloride (0.56 g) and N,N-dimethylformamide (30 mL) was added triethylamine (0.69 g) at room temperature, and the mixture was stirred for 15 min. To the reaction mixture were added (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoic acid (2.0 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.09 g) and 1-hydroxybenzotriazole monohydrate (0.87 g), and the mixture was further stirred at room temperature for 20 hr. Water was added to the reaction mixture and the precipitated crystals were collected by filtration to give (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-N-methoxy-N-methyl-2-propenamide as colorless crystals (1.92 g, yield 88%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 173-174° C.

reactant | N,O-dimethylhydroxylamine hydrochloride | 0.56 g | Cl.CNOC
reactant | (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoic acid | 2.0 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C(=O)O)C2=CC=CC=C2)C=C1)OC)C | C29H25N3O7
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.09 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.87 g | O.ON1N=NC2=C1C=CC=C2
solvent | Water | O | H2O
solvent | triethylamine | 0.69 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-N-methoxy-N-methyl-2-propenamide | 1.92 g, yield 88% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C(=O)N(C)OC)C2=CC=CC=C2)C=C1)OC)C | C31H30N4O7
